US08629157B2
Step 2: Synthesis of 2-(4-fluoromethyl-phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
A flask is charged with 1-bromo-4-fluoromethyl-benzene (0.280 g, 1.481 mmol), bis(pinacolato)diboron (0.752 g, 2.962 mmol), potassium acetate (0.436 g, 4.443 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride complex with dichloromethane (0.121 g, 0.148 mmol) and 15 mL of degassed anhydrous 1.4-dioxane is added. The mixture is stirred under an atmosphere of Argon at 90° C. for 18 hours. The mixture is cooled to room temperature, filtered and partitioned between ethyl acetate and 5% aqueous sodium chloride solution. The aqueous phase is extracted with ethyl acetate and the combined organics washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material is purified by flash chromatography eluting with ethyl acetate/heptanes to afford 270 mg of title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.23 (12H, s), 5.34 (1H, s), 5.45 (1H, s), 7.21 (2H, d, J=7.43 Hz), 7.71 (2H, d, J=8.78 Hz)

reactant | 1-bromo-4-fluoromethyl-benzene | 1.481 mmol, 0.280 g | BrC1=CC=C(C=C1)CF | C7H6BrF
reactant | bis(pinacolato)diboron | 2.962 mmol, 0.752 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.443 mmol, 0.436 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.148 mmol, 0.121 g | ClCCl | CH2Cl2
solvent | 1.4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluoromethyl-phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 270 mg | FCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BFO2
